US08242125B2
(±)-5-{6-[Hydroxy-(1-methyl-1H-imidazol-2-yl)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To a solution of 1-methyl-1H-imidazole (77 mg, 0.94 mmol) in 5 mL THF at −78° C. is added n-butyllithium (1.6 M in hexane, 0.44 mL). The solution is stirred at −78° C. for 1 h. Then, a solution of 5-(6-formyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (200 mg, 0.47 mmol) in THF (5 mL) is added. The reaction is allowed to warm up to rt and stir overnight. At that time the reaction is quenched with water and then extracted with EtOAc (3×25 mL). The combined organic layers are washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated. The residue is then purified with semi-prep HPLC (C18; 30-100% I/H2O with 0.1% TFA) to give the title compound. The fractions are pololed and the pH is adjusted to 9 with sodium bicarbonate. The product is extracted with EtOAc. The organic layer is washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate is concentrated to give the title compound. MS (ESI) m/z 509.0 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.59 (d, J=1.01 Hz, 1H), 8.36 (d, J=9.09 Hz, 1H), 8.06 (s, 1H), 7.94 (d, J=3.79 Hz, 1H), 7.90 (d, J=7.83 Hz, 1H), 7.57 (m, 2H), 7.46 (d, J=2.02 Hz, 1H), 7.29 (s, 1H), 7.16 (dd, J=8.97, 2.40 Hz, 1H), 7.05 (d, J=1.26 Hz, 1H), 6.85 (d, J=1.26 Hz, 1H), 6.75 (d, J=3.54 Hz, 1H), 5.91 (s, 1H), 3.72 (s, 3H).

reactant | 1-methyl-1H-imidazole | 0.94 mmol, 77 mg | CN1C=NC=C1 | C4H6N2
reactant | n-butyllithium | 1.6 M, 0.44 mL | C(CCC)[Li]
reactant | 5-(6-formyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.47 mmol, 200 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)C=O)(F)F | C21H13F3N4O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-5-{6-[Hydroxy-(1-methyl-1H-imidazol-2-yl)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)C(C=1N(C=CN1)C)O)(F)F | C25H19F3N6O3
